US08003785B2
A mixture of 0.0507 g of the 2:1 mixture of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,3-difluoro-benzoic acid and 4-{4-[(2-carboxy-2,2-difluoro-ethyl)-cyclopentyl-amino]-5-methylamino-pyrimidin-2-ylamino}-2,3-difluoro-benzoic acid in 4 mL of dimethylformamide was treated with 0.0971 g (0.248 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 0.0742 g (0.574 mmole) of diisopropylethylamine. After 15 minutes, 0.0186 g (0.162 mmole) of 4-amino-1-methylpiperidine in 1 mL of dimethylformamide was added. The reaction mixture stirred for 30 minutes and then diluted with 150 mL of ethyl acetate and 25 mL of water. The mixture was then washed successively with 20 mL of ammonium chloride, 20 mL of saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.0359 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,3-difluoro-N-(1-methyl-piperidin-4-yl)-benzamide (I-243) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,3-difluoro-benzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C(=C(C(=O)O)C=C2)F)F | C20H19F4N5O3
reactant | 4-{4-[(2-carboxy-2,2-difluoro-ethyl)-cyclopentyl-amino]-5-methylamino-pyrimidin-2-ylamino}-2,3-difluoro-benzoic acid | C(=O)(O)C(CN(C1=NC(=NC=C1NC)NC1=C(C(=C(C(=O)O)C=C1)F)F)C1CCCC1)(F)F | C20H21F4N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.248 mmole, 0.0971 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.574 mmole, 0.0742 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-amino-1-methylpiperidine | 0.162 mmole, 0.0186 g | NC1CCN(CC1)C | C6H14N2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2,3-difluoro-N-(1-methyl-piperidin-4-yl)-benzamide | 0.0359 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=C(C(=C(C(=O)NC1CCN(CC1)C)C=C2)F)F | C25H29F4N7O2
